US07186716B2
3-[4-(4-Chloro-phenylmethanesulfonyl)-1H-pyrrol-2-yl]-1H-pyrazolo[3,4-b]pyridine
{4-[(4-chlorobenzyl)sulfonyl]-1H-pyrrol-2-yl}(2-chloropyridin-3-yl)methanone (280 mg, 0.711 mmol) and 359 mg of hydrazine monohydrate (7.11 mmol) were mixed in 4 mL of ethanol. The mixture was stirred at 80° C. overnight (16 hour) and then cooled down to room temperature. Water was added and filtered. Washed with additional water and methanol to collect the product, dried to afford 250 mg (95% yield) of the title compound.

reactant | {4-[(4-chlorobenzyl)sulfonyl]-1H-pyrrol-2-yl}(2-chloropyridin-3-yl)methanone | 0.711 mmol, 280 mg | ClC1=CC=C(CS(=O)(=O)C=2C=C(NC2)C(=O)C=2C(=NC=CC2)Cl)C=C1 | C17H12Cl2N2O3S
reactant | hydrazine monohydrate | 7.11 mmol, 359 mg | O.NN
reactant | Water | O | H2O
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 3-[4-(4-Chloro-phenylmethanesulfonyl)-1H-pyrrol-2-yl]-1H-pyrazolo[3,4-b]pyridine | 250 mg, 95% yield | ClC1=CC=C(C=C1)CS(=O)(=O)C=1C=C(NC1)C1=NNC2=NC=CC=C21 | C17H13ClN4O2S
